US07300936B2
(2R)-2-[N-(4-Chlorobenzenesulfonyl)-N-(4-dimethylaminomethyl-benzyl)amino]-4-methyl-pentanoic acid amide (EXAMPLE 110):
To a stirred solution of methanesulfonic acid 4-{[N-((1R)-1-carbamoyl-3-methyl-butyl)-N-(4-chlorobenzenesulfonyl)amino]-methyl }-benzyl ester (150 mg, 0.298 mmol) in (3 mL) CH2Cl2 at 0° C. was added 1 equivalent of Et3N, followed by dimethylamine (0.3 mL, 2 M in THF). The reaction was stirred overnight at rt. The mixture was diluted with CH2Cl2, washed with H2O, brine, dried over MgSO4, and concentrated to give an amber glass. Purification by flash chromatography (SiO2, 10% MeOH/CH2Cl2) afforded the title compound (95 mg) in 71% yield. MS (ESI), (M+H)+452.23, 1H NMR (CDCl3) δ7.94 (d, 2H, J=8.0), 7.74 (d, 2H, J=8.0), 7.63 (d, 2H, J=8.0) 7.38 (d, 2H, J=8.0), 6.23 (br s, 1H), 5.35 (br s, 1H), 4.22 (d, 1H, Jab=16), 4.14 (d, 1H, Jab=16), 3.28-3.23 (m, 3H), 2.17 (br s, 6H), 1.95 (m, 1H), 1.55 (m, 2H), 0.96 (d, 3H, J=7.0), 0.93 (d, 3H, J=7.0).

reactant | methanesulfonic acid 4-{[N-((1R)-1-carbamoyl-3-methyl-butyl)-N-(4-chlorobenzenesulfonyl)amino]-methyl }-benzyl ester | 0.298 mmol, 150 mg | C(N)(=O)[C@@H](CC(C)C)N(S(=O)(=O)C1=CC=C(C=C1)Cl)CC1=CC=C(COS(=O)(=O)C)C=C1 | C21H27ClN2O6S2
reactant | Et3N | 1 equivalent | CCN(CC)CC | C6H15N
reactant | dimethylamine | 2 M, 0.3 mL | CNC | C2H7N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (2R)-2-[N-(4-Chlorobenzenesulfonyl)-N-(4-dimethylaminomethyl-benzyl)amino]-4-methyl-pentanoic acid amide | 95 mg, 71% yield | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)CN(C)C)[C@@H](C(=O)N)CC(C)C | C22H30ClN3O3S
